US08476253B2
1-{2-[(6-Hydroxyhexanoyl)(methyl)amino]ethyl}piperidin-4-yl biphenyl-2-ylcarbamate
1-[2-(Methylamino)ethyl]piperidin-4-yl biphenyl-2-ylcarbamate (5.00 g, 14.1 mmol) was dissolved in methylene chloride (141 mL), triethylamine (2.35 mL, 16.9 mmol) and 6-bromohexanoyl chloride (2.32 mL, 15.6 mmol) were added under ice cooling, and the mixture was stirred at room temperature for 20 minutes. The solvent was evaporated under reduced pressure, water was added to the resulting residue, the mixture was extracted with ethyl acetate (×3), and the organic layer was washed with saturated sodium chloride solution. The organic layer was dried with anhydrous sodium sulfate, the solvent was evaporated under reduced pressure, the resulting residue was dissolved in N,N-dimethylformamide (47 mL), potassium acetate (2.08 g, 21.2 mmol) and 18-crown-6 (373 mg, 1.41 mmol) were added, and the mixture was stirred at 60° C. for 15.5 hours. Methanol (47 mL) and potassium carbonate (5.85 g, 42.3 mmol) were added to the reaction mixture, and the mixture was stirred at room temperature for 2 hours. The mixture was diluted with methylene chloride, water and saturated sodium chloride solution were added, and the mixture was extracted with methylene chloride (×3). The organic layer was dried with anhydrous sodium sulfate, the solvent was evaporated under reduced pressure, and the resulting residue was purified by NH silica gel column chromatography (ethyl acetate:methanol=100:0→20:1, v/v) to give the title compound (5.93 g; yield, 90%) as a white solid.

reactant | 1-[2-(Methylamino)ethyl]piperidin-4-yl biphenyl-2-ylcarbamate | 14.1 mmol, 5.00 g | C1(=C(C=CC=C1)NC(OC1CCN(CC1)CCNC)=O)C1=CC=CC=C1 | C21H27N3O2
reactant | triethylamine | 16.9 mmol, 2.35 mL | C(C)N(CC)CC | C6H15N
reactant | 6-bromohexanoyl chloride | 15.6 mmol, 2.32 mL | BrCCCCCC(=O)Cl | C6H10BrClO
reactant | potassium acetate | 21.2 mmol, 2.08 g | C(C)(=O)[O-].[K+]
reactant | 18-crown-6 | 1.41 mmol, 373 mg | C1COCCOCCOCCOCCOCCO1 | C12H24O6
reactant | potassium carbonate | 42.3 mmol, 5.85 g | C([O-])([O-])=O.[K+].[K+]
solvent | methylene chloride | 141 mL | C(Cl)Cl | CH2Cl2
solvent | water | O | H2O
solvent | sodium chloride | [Cl-].[Na+]
solvent | Methanol | 47 mL | CO | CH4O
product | 1-{2-[(6-Hydroxyhexanoyl)(methyl)amino]ethyl}piperidin-4-yl biphenyl-2-ylcarbamate | 5.93 g, 90% | C1(=C(C=CC=C1)NC(OC1CCN(CC1)CCN(C)C(CCCCCO)=O)=O)C1=CC=CC=C1 | C27H37N3O4
